US07888364B2
75 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to (S)-1-amino-2-propanol via Procedure G. The product was purified on reverse phase HPLC to yield (S)-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(2-hydroxypropyl)terephthalamide. MS (Q1) 444 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 75 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | (S)-1-amino-2-propanol | NC[C@H](C)O | C3H9NO
product | (S)-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(2-hydroxypropyl)terephthalamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(=O)NC[C@H](C)O | C22H19Cl2N3O3
